US07067657B2
(±)-2-(2-Amino-5-phenylmethylthio-thiazolo[4,5-d]pyrimidin-7-ylamino)-3-methyl-butan-1-ol
5-Phenylmethylthio-7-chloro-thiazolo[4,5-d]pyrimidin-2-ylamine (WO 00/09511) (100 mg, 0.32 mmol) and DL-2-amino-3-methyl-1-butanol (253 μL, 2.3 mmol) were suspended in anhydrous tetrahydrofaran (4 mL) and the reaction tube was capped. The solution was heated at 100° C. for 24 hours and was then allowed to cool down to room temperature. The solvent was evaporated in vacuo and the crude product was flash chromatographed on silica (eluent—ammonia:ethanol:dichloromethane, 1:8:91) followed by a second chromatography (gradient eluent—ammonia ethyl acetate: dichloromethane, 1:59:40 to 1:99:0) resulting in 29 mg (24% yield) of the title compound as a white solid.

reactant | 5-Phenylmethylthio-7-chloro-thiazolo[4,5-d]pyrimidin-2-ylamine | 0.32 mmol, 100 mg | C1(=CC=CC=C1)CSC=1N=C(C2=C(N1)N=C(S2)N)Cl | C12H9ClN4S2
reactant | 2-amino-3-methyl-1-butanol | 2.3 mmol, 253 μL | NC(CO)C(C)C | C5H13NO
product | (±)-2-(2-Amino-5-phenylmethylthio-thiazolo[4,5-d]pyrimidin-7-ylamino)-3-methyl-butan-1-ol | 29 mg, 24% yield | NC=1SC2=C(N=C(N=C2NC(CO)C(C)C)SCC2=CC=CC=C2)N1 | C17H21N5OS2
